US07960563B2
4-Bromo-5-chloro-1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-1H-indazole (D23)
A mixture of 4-bromo-5-chloro-1H-indazole (D22) (0.361 g, 1.56 mmol), {3-fluoro-4-[(phenylmethyl)oxy]phenyl}boronic acid (0.57 g, 2.32 mmol), copper (II) acetate (0.42 g, 2.31 mmol) and pyridine (0.25 mL, 3.10 mmol) in dichloromethane (50 mL) were stirred together vigorously under an air atmosphere with powdered 4A molecular sieves (1.5 g). After 5 days, the mixture was filtered through celite and the solvent evaporated. The concentrate was chromatographed (silica, dichloromethane/hexane) to give the title compound (D23) as an off white solid (0.32 g)

reactant | 4-bromo-5-chloro-1H-indazole | 1.56 mmol, 0.361 g | BrC1=C2C=NNC2=CC=C1Cl | C7H4BrClN2
reactant | {3-fluoro-4-[(phenylmethyl)oxy]phenyl}boronic acid | 2.32 mmol, 0.57 g | FC=1C=C(C=CC1OCC1=CC=CC=C1)B(O)O | C13H12BFO3
reactant | pyridine | 3.10 mmol, 0.25 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 2.31 mmol, 0.42 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-Bromo-5-chloro-1-{3-fluoro-4-[(phenylmethyl)oxy]phenyl}-1H-indazole | BrC1=C2C=NN(C2=CC=C1Cl)C1=CC(=C(C=C1)OCC1=CC=CC=C1)F | C20H13BrClFN2O
